US07745475B2
4-{3-[(1S)-2-Hydroxy-1-methylethoxy]-5-[(1H-pyrazol-3-ylamino)carbonyl]phenoxy}benzoic acid
A solution of ethyl 4-{3-[(1S)-2-hydroxy-1-methylethoxy]-5-[(1H-pyrazol-3-ylamino)carbonyl]phenoxy}benzoate (175 mg, 0.4 mmol) in THF (5 mL) and water (1 mL) was treated with 1N sodium hydroxide solution (3 mL) and the reaction stirred at RT for 16 hours. On completion, the solvent was removed in vacuo and 1N citric acid added until pH 3-4. The white precipitate was collected by filtration and dried in vacuo to give the desired product as a white solid (138 mg, 85%).

reactant | ethyl 4-{3-[(1S)-2-hydroxy-1-methylethoxy]-5-[(1H-pyrazol-3-ylamino)carbonyl]phenoxy}benzoate | 0.4 mmol, 175 mg | OC[C@@H](OC=1C=C(OC2=CC=C(C(=O)OCC)C=C2)C=C(C1)C(=O)NC1=NNC=C1)C | C22H23N3O6
reactant | sodium hydroxide | 1N, 3 mL | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | 4-{3-[(1S)-2-Hydroxy-1-methylethoxy]-5-[(1H-pyrazol-3-ylamino)carbonyl]phenoxy}benzoic acid | 138 mg, 85% | OC[C@@H](OC=1C=C(OC2=CC=C(C(=O)O)C=C2)C=C(C1)C(=O)NC1=NNC=C1)C | C20H19N3O6
